US07985755B2
Step 3: 2-[4-(3-Chlorobenzyl)cyclohexylmethoxy]-6-fluorobenzonitrile
[4-(3-Chlorobenzyl)cyclohexyl]-methanol (150 mg; 0.63 mmol) was added to a suspension of sodium hydride (33 mg; 0.82 mmol) in 3 mL of dimethylformamide at 0° C. After 2 hours, mixture was added to a mixture of 2,6-difluorobenzonitrile (88 mg; 0.63 mmol) in 2 mL of dimethylformamide at 0° C. After 16 hours mixture was quenched with 5 g of ice. Aqueous mixture was extracted with 5×15 mL of ethyl acetate. Combined ethyl acetates were washed with 6×15 mL water, brine and dried over MgSO4. Residue was purified via flash chromatography using 5-15% ethyl acetate in hexanes gradient to give 173 mgs of title compound. (77% yield).

reactant | [4-(3-Chlorobenzyl)cyclohexyl]-methanol | 0.63 mmol, 150 mg | ClC=1C=C(CC2CCC(CC2)CO)C=CC1 | C14H19ClO
reactant | sodium hydride | 0.82 mmol, 33 mg | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | 0.63 mmol, 88 mg | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-[4-(3-Chlorobenzyl)cyclohexylmethoxy]-6-fluorobenzonitrile | 173 mgs, 77% yield | ClC=1C=C(CC2CCC(CC2)COC2=C(C#N)C(=CC=C2)F)C=CC1 | C21H21ClFNO
